US04214097
A solution of 526 mg (2 mmoles) of ethyl 6-bromo-2,3,3-trimethyl-4-hexenoate in 2 ml of anhydrous tetrahydrofuran was added dropwise to a suspension of 224 mg (2 mmoles) of potassium t-butoxide in 10 ml of tetrahydrofuran. The mixture was heated under reflux for two hours and then allowed to cool to room temperature. An additional 116 mg (1 mmole) of potassium t-butoxide was added, and the mixture again heated under reflux for two hours. The reaction mixture was poured into ice water, and the aqueous mixture extracted with diethyl ether. The ether extract was dried over magnesium sulfate and distilled to give 200 mg (55% yield) of ethyl 1,3,3-trimethyl-2-vinylcyclopropanecarboxylate, b.p. 92°-95°/1.5 mm.

reactant | ethyl 6-bromo-2,3,3-trimethyl-4-hexenoate | 2 mmoles, 526 mg | BrCC=CC(C(C(=O)OCC)C)(C)C | C11H19BrO2
reactant | potassium t-butoxide | 2 mmoles, 224 mg | CC(C)([O-])C.[K+]
reactant | potassium t-butoxide | 1 mmole, 116 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 1,3,3-trimethyl-2-vinylcyclopropanecarboxylate | 200 mg, 55% yield | CC1(C(C1(C)C)C=C)C(=O)OCC | C11H18O2
